US07943622B2
Step 2. Synthesis of 2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)-6-(trifluoromethyl)thiazolo[4,5-b]pyridine hydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 3-((pyridin-3-yloxy)methyl)-4-(6-(trifluoromethyl)thiazolo[4,5-b]pyridin-2-yl)piperazine-1-carboxylate (134 mg, 0.271 mmol) in MeOH (1 mL). After stirring overnight, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The fractions containing the desired product were combined and brought to pH 12 with 1 N NaOH and were extracted with EtOAc (3×). The combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure. The material was dissolved in MeOH (1 mL) and 4 M HCl in 1,4-dioxane (1 equiv. HCl, 0.036 mL) was added. The mixture was concentrated under reduced pressure to give 60.5 mg (52%) of the desired product as the hydrochloride salt. LC-MS: RT=4.53 min, [M+H]+=396.6.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 3-((pyridin-3-yloxy)methyl)-4-(6-(trifluoromethyl)thiazolo[4,5-b]pyridin-2-yl)piperazine-1-carboxylate | 0.271 mmol, 134 mg | N1=CC(=CC=C1)OCC1CN(CCN1C=1SC=2C(=NC=C(C2)C(F)(F)F)N1)C(=O)OC(C)(C)C | C22H24F3N5O3S
reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 0.036 mL, 1 equiv | O1CCOCC1 | C4H8O2
solvent | MeOH | 1 mL | CO | CH4O
product | 2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)-6-(trifluoromethyl)thiazolo[4,5-b]pyridine hydrochloride | 60.5 mg, 52% | Cl.N1=CC(=CC=C1)OCC1N(CCNC1)C=1SC=2C(=NC=C(C2)C(F)(F)F)N1 | InChI=1S/C17H16F3N5OS.ClH/c18-17(19,20)11-6-14-15(23-7-11)24-16(27-14)25-5-4-22-8-12(25)10-26-13-2-1-3-21-9-13;/h1-3,6-7,9,12,22H,4-5,8,10H2;1H
